US07091214B2
A solution of 4-methoxybenzyl 4-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]butane-1-sulfonamide (0.50 g, 0.88 mmol) in trifluoroacetic acid (5 mL) was stirred at ambient temperature for four hours and then concentrated under reduced pressure. The residue was dissolved in methanol and concentrated under reduced pressure; this process was repeated three times. The residue was then suspended in water, and 2 M aqueous sodium hydroxide was added to adjust to pH 7. The mixture was stirred for 30 minutes, and the resulting solid was isolated by filtration, washed with water, and purified by HPFC (eluting with chloroform:CMA in a gradient from 100:0 to 30:70). The purified product was dried overnight under high vacuum at 80° C. to provide 0.31 g of 4-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]butane-1-sulfonamide as tan needles, mp 250–251.5° C.

reactant | 4-methoxybenzyl 4-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]butane-1-sulfonamide | 0.88 mmol, 0.50 g | COC1=CC=C(CC(CCCN2C(=NC=3C(=NC=4C=C(C=CC4C32)C=3C=NC=CC3)N)COCC)S(=O)(=O)N)C=C1 | C30H34N6O4S
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-yl]butane-1-sulfonamide | 0.31 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCCCS(=O)(=O)N)COCC)C=2C=NC=CC2 | C22H26N6O3S
